US06780855B2
276 mg of 11β-fluoro-3-hydroxy-7α-(5-(methyl-amino)-pentyl)-estra-1,3,5(10)-trien-17-one is dissolved in 3 ml of N-methylpyrrolidone, mixed with 0.6 ml of 1,1,1,2,2,3,3,4,4-nonafluor-5-iodo-hexane and heated for 1.5 hours at a bath temperature of 80° C. For working-up, the reaction mixture is cooled to room temperature, stirred into saturated common salt solution, extracted with ethyl acetate, the organic phases are washed with water, dried on magnesium sulfate and concentrated by evaporation in a vacuum. Preparative column chromatography on silica gel with a methylene chloride-methanol gradient provides 176 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(3,3,4,4,5,5,6,6,6-nonafluoro-hexyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one.

reactant | 11β-fluoro-3-hydroxy-7α-(5-(methyl-amino)-pentyl)-estra-1,3,5(10)-trien-17-one | 276 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCNC)O | C24H34FNO2
reactant | 1,1,1,2,2,3,3,4,4-nonafluor-5-iodo-hexane | 0.6 ml | FC(C(C(C(C(C)I)(F)F)(F)F)(F)F)(F)F | C6H4F9I
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(3,3,4,4,5,5,6,6,6-nonafluoro-hexyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 176 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C)O | C30H37F10NO2
